US06864279B2
A solution of (4-Hydroxy-2-oxo-2H-chromen-3-yl)-phenyl-acetic acid in EtOH with a catalytic amount of conc. sulfuric acid was heated to reflux for 5 hours, cooled to room temperature, diluted with water and extracted with EtOAc. The organic layer was dried over MgSO4 and conc. in vacuo to give (4-Hydroxy-2-oxo-2H-chromen-3-yl)-phenyl-acetic acid ethyl ester as colorless oil, which crystallize upon standing (910 mg). MS: 323[M-H].

reactant | (4-Hydroxy-2-oxo-2H-chromen-3-yl)-phenyl-acetic acid | OC1=C(C(OC2=CC=CC=C12)=O)C(C(=O)O)C1=CC=CC=C1 | C17H12O5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | (4-Hydroxy-2-oxo-2H-chromen-3-yl)-phenyl-acetic acid ethyl ester | C(C)OC(C(C1=CC=CC=C1)C=1C(OC2=CC=CC=C2C1O)=O)=O | C19H16O5
